US09326513B2
Preparation of 3-bromo-2-(cis-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine
To a stirred suspension of 3-bromo-6-methyl-5-nitro-pyridin-2-ol (23.65 g, 101.5 mmol) in THF (180 mL), trans isopropylcyclohexanol (14.44 g, 101.5 mmol, 1.0 eq) and triphenylphosphine (32.27 g, 121.8 mmol, 1.2 eq) were added at room temperature under inert atmosphere (Ar). To this mixture, DIAD (diisopropyl diazodicarboxylate) (25.51 mL, 121.8 mmol, 1.2 eq) was added drop wise over 45 min while keeping the temperature below 45° C. Then, the reaction mixture was stirred for 5 h under heating to reflux. TLC indicated that the starting material was consumed. The reaction mixture was therefore allowed to reach room temperature and it was quenched by the addition of water (250 mL). The extraction was carried out with ethyl acetate (3×200 mL). The organic layer was washed with brine (300 mL), dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to give a residue, which was purified by column chromatography (silica gel, heptane/ethyl acetate, v/v=1/0-98/2). Fractions containing the pure compound were collected and concentrated in vacuo to give title compound (22.59 g, 62%) in the form of an oil.

reactant | 3-bromo-6-methyl-5-nitro-pyridin-2-ol | 101.5 mmol, 23.65 g | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O | C6H5BrN2O3
reactant | triphenylphosphine | 121.8 mmol, 32.27 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 121.8 mmol, 25.51 mL, 1.2 eq | [N+](=[N-])(C(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-(cis-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine | 22.59 g, 62% | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O[C@@H]1CC[C@@H](CC1)C(C)C | C15H21BrN2O3
